US07183283B2
B) 5-{2-[4-(6-fluoro-1,2-benzisoxazole-3-yl)-piperidine-1-yl]-ethylamino}-4-chloro-2H-pyridazine-3-one
5.6 g (22.2 millimoles) of 5-(2-bromoethylamino)-4-chloro-2H-pyridazine-3-one, 16 ml of anhydrous dimethyl formamide, 5.62 g (25.5 millimoles) of 6-fluoro-3-piperidine-4-yl-1,2-benzisoxazole, 8.85 ml of triethyl amine and 0.44 g of potassium iodide are admixed. The reaction mixture is heated at 60° C. for 2 hours, cooled to room temperature and a solution of 5.46 g of sodium carbonate and 50 ml of water is added dropwise. The mixture is stirred for half an hour, the suspension is filtered and the filtered product is washed three times with 20 ml of water each. The crude product thus obtained is dissolved in a 9:1 mixture of acetonitrile and water under heating to boiling, filtered warm and the mother lye is evaporated to one-third of its volume. The residual mother lye is stirred under cooling with icecold water for 2 hours. The precipitated crystals are filtered. Thus 6.75 g of the desired compound are obtained. Yield 77.6%. Mp.: 229–231° C.

reactant | 5-(2-bromoethylamino)-4-chloro-2H-pyridazine-3-one | 22.2 millimoles, 5.6 g | BrCCNC1=C(C(NN=C1)=O)Cl | C6H7BrClN3O
reactant | 6-fluoro-3-piperidine-4-yl-1,2-benzisoxazole | 25.5 millimoles, 5.62 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | potassium iodide | 0.44 g | [I-].[K+]
reactant | sodium carbonate | 5.46 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | water | 50 ml | O | H2O
solvent | triethyl amine | 8.85 ml | C(C)N(CC)CC | C6H15N
solvent | dimethyl formamide | 16 ml | CN(C=O)C | C3H7NO
product | 5-{2-[4-(6-fluoro-1,2-benzisoxazole-3-yl)-piperidine-1-yl]-ethylamino}-4-chloro-2H-pyridazine-3-one | 6.75 g, Yield 77.6% | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCNC2=C(C(NN=C2)=O)Cl)C=C1 | C18H19ClFN5O2
